US08835419B2
To a stirred solution of 3-bromo-4-chlorophenol (25.0 g, 120.5 mmol) in dichloromethane at 0° C. was added imidazole (9.0 g, 132.5 mmol) and t-butyldimethylchlorosilane (TBSC1) (19.0 g, 126.5 mmol). The solution was stirred at 0° C. for 30 min, then at room temperature for 14 h. The reaction mixture was diluted with deionized water, extracted with dichloromethane (2×200 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 0-10% ethyl acetate in hexanes) to afford (3-bromo-4-chlorophenoxy)-t-butyldimethylsilane as colorless oil (37.0 g, 115.0 mmol, 98%). MS: (ES) m/z calculated for C12H19BrClOSi [M+H]+ 321.0. found 321.

reactant | 3-bromo-4-chlorophenol | 120.5 mmol, 25.0 g | BrC=1C=C(C=CC1Cl)O | C6H4BrClO
reactant | imidazole | 132.5 mmol, 9.0 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 126.5 mmol, 19.0 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (3-bromo-4-chlorophenoxy)-t-butyldimethylsilane | 115.0 mmol, 37.0 g, 98% | BrC=1C=C(O[Si](C)(C)C(C)(C)C)C=CC1Cl | C12H18BrClOSi
